US05444072
A mixture of lithium chloride (4.8 g), tris(dibenzylideneacetone)dipalladium (O) chloroform adduct (0.65 g), triphenylarsine (1.6 g) and methyl (E) 6-(1,3-dihydro-7-methyl-3-oxo-4-p-toluenesulfonyloxy-6-trifluoromethanesulfonyloxyisobenzofuran-5-yl)-4-methyl-4-hexenoate (24.2 g) in N-methylpyrrolidinone (220 ml) was heated to 55° C. Vinyltributyltin (15 g) was added. After 3 hours the mixture was added to water (500 ml), potassium fluoride (16 g) and ethyl acetate. The organic solution was dried, filtered through celite and evaporated to afford methyl (E) 6-(1,3-dihydro-7-methyl-3-oxo-4-p-toluenesulfonyloxy-6-vinylisobenzofuran-5-yl)-4-methyl-4-hexenoate.

reactant | lithium chloride | 4.8 g | [Cl-].[Li+]
reactant | triphenylarsine | 1.6 g | C1(=CC=CC=C1)[As](C1=CC=CC=C1)C1=CC=CC=C1 | C18H15As
reactant | methyl (E) 6-(1,3-dihydro-7-methyl-3-oxo-4-p-toluenesulfonyloxy-6-trifluoromethanesulfonyloxyisobenzofuran-5-yl)-4-methyl-4-hexenoate | 24.2 g | CC=1C(=C(C(=C2C(OCC12)=O)OS(=O)(=O)C1=CC=C(C=C1)C)C/C=C(/CCC(=O)OC)\C)OS(=O)(=O)C(F)(F)F | C25H25F3O10S2
reactant | Vinyltributyltin | 15 g | C(=C)[Sn](CCCC)(CCCC)CCCC
reactant | potassium fluoride | 16 g | [F-].[K+]
solvent | N-methylpyrrolidinone | 220 ml | CN1C(CCC1)=O | C5H9NO
catalyst | tris(dibenzylideneacetone)dipalladium | 0.65 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 500 ml | O | H2O
product | methyl (E) 6-(1,3-dihydro-7-methyl-3-oxo-4-p-toluenesulfonyloxy-6-vinylisobenzofuran-5-yl)-4-methyl-4-hexenoate | CC=1C(=C(C(=C2C(OCC12)=O)OS(=O)(=O)C1=CC=C(C=C1)C)C/C=C(/CCC(=O)OC)\C)C=C | C26H28O7S
